US08084485B2
Step 16. (4S,5R)-tert-Butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-formyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate
To a solution of (4S,5R)-tert-butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-(hydroxymethyl)-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate (100 mg, 0.22 mmol) in anhydrous CH2Cl2 (5 mL) was added Dess-Martin reagent (120 mg, 0.283 mmol). The reaction mixture was stirred at rt for 5 h. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to (4S,5R)-tert-butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-formyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate (80 mg, 80%), which was used without purification; MS: 455 (M++1).

reactant | (4S,5R)-tert-butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-(hydroxymethyl)-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.22 mmol, 100 mg | CC(C(=O)NC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)C[C@@H](C(C)C)CO)(CCCC)C | C25H48N2O5
reactant | Dess-Martin reagent | 0.283 mmol, 120 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (4S,5R)-tert-Butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-formyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | CC(C(=O)NC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)C[C@@H](C(C)C)C=O)(CCCC)C | C25H46N2O5
